Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
R IJ CVL placement (subsequently removed) 
R arm midline placement 

 
History of Present Illness:
Ms. ___ is a ___ yo woman with h/o cadaveric renal transplant 
in ___ on pred/tacro, who presents with altered mental status, 
now transferred to ___ with acidemia to pH 7.12.

Patient was brought in by EMS after a friend found her down at 
home having soiled herself. Reportedly had pinpoint pupils and 
decreased respirations in the field but narcan was not given. 
She was started on 2L NC for mild hypoxemia. Patient does not 
recall events of the day but believes she was in usual state of 
health and does not believe she took more than her usual doses 
of medications. She denies fevers at home and ROS is positive 
only for her chronic back and abdominal pain, though history is 
quite limited by mental status.
 
In the ED, initial vitals:  98.0 90 103/60 18 98%. patient was 
somnolent and complaining of abdominal pain.
Labs were notable WBC 12.2, Cr 1.8 from recent baseline 0.9, 
bicarb 17 with AG 17, nl lactate, nl serum osms, UA with pyuria 
and negative ketones, ABG 7.16/58/79.
Imaging showed unremarkable CXR, CT head without acute process, 
and CT a/p without acute process.
Patient was given 25 g dextrose, 500 cc NSx2, hydrocortisone 100 
mg, CTX 1g. Because of worsening hypotension she was started on 
levophed gtt. 
  
On arrival to the MICU, patient is somnolent. She is breathing 
at a normal rate with shallow breaths. After narcan she has some 
improved mental status. She is unable to recall much of the 
events of yesterday and initially denies taking pain medicatiosn 
at all. She voices frustration that her friend ___ called an 
ambulance.
 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# Polyneuropathy in renal disease  
# Anemia  of chronic disease

CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  

ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use

SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  

GI/HEPATOLOGY
# GERD

SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# Cataract surgery  

INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  

PSYCH
# Panic disorder  

HEENT
# Hearing loss of both ears   

MISC
# Chronic low back pain w/ sciatica 
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
GEN: Thin, somnolent but arousable, intermittently able to 
answer questions appropriately, no increased WOB
HEENT: Dry MM
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes/rales b/l
ABDOMEN: Soft, mild TTP over RUQ/RLQ 
EXTREMITIES: b/l LEs with diffuse nonpitting edema, 
hyperpigmentation over shins, multiple ecchymoses b/l

DISCHARGE PHYSICAL EXAM
=======================
 
Pertinent Results:
ADMISSION LABS:
___ 07:51PM BLOOD WBC-12.2*# RBC-3.74* Hgb-10.7* Hct-37.3 
MCV-100* MCH-28.6 MCHC-28.7* RDW-20.0* RDWSD-73.9* Plt ___
___ 07:51PM BLOOD Neuts-59.2 ___ Monos-5.6 Eos-2.0 
Baso-0.7 Im ___ AbsNeut-7.24* AbsLymp-3.92* AbsMono-0.68 
AbsEos-0.25 AbsBaso-0.09*
___ 08:45PM BLOOD ___ PTT-26.8 ___
___ 07:51PM BLOOD Glucose-64* UreaN-32* Creat-1.8* Na-134 
K-4.6 Cl-100 HCO3-17* AnGap-22*
___ 07:51PM BLOOD ALT-7 AST-23 AlkPhos-81 TotBili-0.6
___ 04:50AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.6
___ 07:51PM BLOOD Osmolal-284
___ 07:51PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-14 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:46PM BLOOD Type-ART pO2-79* pCO2-58* pH-7.16* 
calTCO2-22 Base XS--8
___ 07:51PM BLOOD Lactate-0.8

IMAGING:
CXR: FINDINGS:  
Overlying EKG leads are present.  The lungs appear clear without 
focal 
consolidation, large effusion or pneumothorax.  The heart and 
mediastinal 
contours appear essentially unchanged.  The previously noted 
PICC line has 
been removed.  No pneumothorax is seen.  Bony structures are 
intact.  Clips in the right upper quadrant noted.  Levo 
scoliotic deformity of the lumbar spine is partially visualized 

Renal Transplant U/S:
IMPRESSION:    
Normal renal transplant ultrasound, with marginally increased 
(though still within range of normal) resistive indices as 
compared with recent prior exam. 

CT Head:
IMPRESSION:  
No acute intracranial process. 

CT A/P:
IMPRESSION:    
No acute CT findings in the abdomen or pelvis to explain the 
patient's diffuse abdominal pain. 

LAST LABS PRIOR TO DISCHARGE
___ 09:30PM BLOOD WBC-6.1 RBC-3.16* Hgb-9.3* Hct-29.9* 
MCV-95 MCH-29.4 MCHC-31.1* RDW-20.2* RDWSD-70.8* Plt ___
___ 09:30PM BLOOD Glucose-114* UreaN-33* Creat-1.3* Na-138 
K-3.7 Cl-102 HCO3-25 AnGap-15
___ 05:21AM BLOOD ALT-6 AST-14 AlkPhos-59 TotBili-0.2
___ 09:30PM BLOOD Calcium-9.4 Phos-3.7 Mg-1.7
___ 08:49AM BLOOD tacroFK-4.1*
 
Brief Hospital Course:
This is a ___ year old female with past medical history ESRD 
status post renal transplant, osteonecrosis of L hip s/p 
girdlestoneprocedure w/ chronic low back pain, wheelchair bound, 
CAD, initially admitted ___ for acute encephalopathy and 
hypotension secondary to unintentional opioid overdose, course 
complicated by ___, Cdiff colitis now status post PO vanco 
course, subsequently recovering, discharged to ___ 

# Acute Toxic Encephalopathy / Accidental Poisoning by Opiates / 
Hypotension - patient initially admitted to the ___ for 
encephalopathy after being found down thought secondary to 
opioid overdose.  Workup was negative for additional metabolic, 
infectious causes.  Patient denied recent use of opiates prior 
to admission (reports her son stole them), but exam on admission 
was notable for pinpoint pupils, hypotension, responsive to 
narcan upon arrival to the FICU and with tox screen positive for 
opiates.  CT head without acute process. She had slow 
improvement with initial waxing and waning of her mental status, 
before resolving to baseline.  

# Chronic Pain: Due to scoliosis and left hip removal/R hip 
pain.  Given concern regarding self-administered opiates (see 
above re: accidental overdose), discussion was had with PCP 
regarding changing to fentanyl patch and elimination of prn oral 
opiates.  After agreement, patient started on 25mcg fentanyl and 
was weaned off oxycodone. 

# Recurrent Cdiff Infection: Diagnosed in the setting of 
worsening diarrhea; found to be Cdiff PCR positive.  PO vanco 
started ___, and she completed 14d course with resolution of 
symptoms 

# ___ Transplantation: baseline Cr 0.9 (___) up to Cr
peak 1.8 this admission. Received 3d IV steroid empirically for
mild rejection, probably a large component of pre-renal insult
(pt hypotensive requiring Levophed in FICU) and ATN was noted on
urine sediment. ___ now resolved to 1.3
--discussed with renal tx, will f/u with outpatient transplant
doctor for tac levels

# Hypertension - once hemodynamically stable, continued home 
metoprolol stable

# Adjustment Disorder- evaluated by psychiatry yesterday after 
comments of harming self. Pt was able to clearly state no 
intention for self-harm.  Continued duloxetine, recommended for 
outpatient therapy.
  
# Social Issues - Of note, there are extensive social issues 
including her son, friends and client. She has lost her 
apartment due to her son embezzling money. Most of her 
belongings and motorized wheelchair where in the apartment. 

Transitional Issues
# Contact: Patient, HCP was previously friend ___ however
now her ex husband ___ is her new hc proxy. She states this
is her guardian but paperwork has never been filed and clarified
that guardian is for pt's who do not have capacity, which she
does ___. 
# Dispo:  To ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO TID 
2. Acyclovir 400 mg PO Q12H 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.5 mcg PO DAILY 
5. DULoxetine 30 mg PO DAILY 
6. Levothyroxine Sodium 88 mcg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QPM R hip pain 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Ondansetron 4 mg PO Q6H:PRN nausea 
10. PredniSONE 5 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO Q24H 
12. Sucralfate 1 gm PO TID:PRN abdominal pain 
13. Tacrolimus 0.5 mg PO Q12H 
14. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
15. Metoprolol Succinate XL 50 mg PO DAILY 
16. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
17. Omeprazole 40 mg PO Q12H 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
 
Discharge Condition:
 
Discharge Instructions:
Ms ___,

It was a pleasure caring for you at ___.  You were admitted 
for confusion and kidney injury. You were seen by ICU doctors, 
who determined that the cause of your confusion was likely 
related to your opioid medications. You were treated and 
improved.  

During your hospital course, you developed diarrhea from 
"Cdiff".  You completed a 2 week treatment  with an antibiotic 
called vancomycin.  

You improved and are now ready for discharge to a skilled 
nursing facility.

We also talked intensely about your mood and goals in life. We 
obtained a psychiatry consult who recommended to continue 
further outpatient psychiatry. 

We talked extensively about your pain control balanced with your 
risk of overdose. I have talked with your PCP and we plan to 
discharge you with a fentanyl patch to help control your pain, 
but lessen the risk of overdose. We recommend against the use of 
prn opiate medications--we recommend Tylenol instead. 
 
Followup Instructions:
___